US05175157
3-[(Pyridin-3-yl)-methyl]-7,8-dimethoxyl-1,3-dihydro-2H-3-benzazepin-2-one
2.2 g (0.01 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one are suspended in 10 ml of dimethyl-sulphoxide and 1.12 g (0.01 mol) of potassium tert.but-oxide are added with stirring. After 60 minutes, 1.3 g (0.01 mol) of 3picolylchloride dissolved in 10 ml of dimethylsulphoxide are added dropwize to the resulting solution with stirring. After 1 hour it is poured onto ice water. The aqueous phase is extracted twice with ethyl acetate. The combined organic phases are washed with water, dried over magnesium sulphate, concentrated by evaporation in vacuo and purified over 200 g of aluminium oxide (neutral, activity II-III) with methylene chloride and then with increasing quantities of methanol (up to 0.8%). Yield: 1.4 g (45.2% of theory), Melting point: 144°-146° C.

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.01 mol, 2.2 g | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | potassium tert.but-oxide | 0.01 mol, 1.12 g | CC(C)([O-])C.[K+]
reactant | 3picolylchloride | 0.01 mol, 1.3 g | N1=CC(=CC=C1)CCl | C6H6ClN
solvent | dimethyl-sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 3-[(Pyridin-3-yl)-methyl]-7,8-dimethoxyl-1,3-dihydro-2H-3-benzazepin-2-one | N1=CC(=CC=C1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H18N2O3
